US04496560
N-Phenylthiourea (3.34 g) is added to a solution of 2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-3-(1-chloro-2-oxoethyl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene (a mixture of the epimers of the chloroaldehyde) (10.3 g) in a mixture of tetrahydrofuran (100 cc) and ethanol (40 cc), and the reaction mixture is then heated at the reflux temperature for 135 minutes. It is diluted with ethyl acetate (250 cc) and a half-saturated sodium bicarbonate solution (500 cc). The organic layer is washed with a half-saturated sodium chloride solution (250 cc) and then dried over magnesium sulphate and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 30° C. The residue obtained is chromatographed on a column (height: 30 cm; diameter: 7 cm) of silica gel (0.04-0.06 mm), elution being carried out under a pressure of 0.7 bar (70 kPa) with a 70:30 (by volume) mixture of cyclohexane and ethyl acetate. After 1.5 liters of eluate have been collected, 100 cc fractions are collected and fractions 20 and 21 are combined and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 30° C. The residue is triturated with isopropyl ether (30 cc). 3-(2-Anilino-thiazol-5-yl)-2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene (2.7 g) is obtained in the form of a yellow solid.

reactant | N-Phenylthiourea | 3.34 g | C1(=CC=CC=C1)NC(=S)N | C7H8N2S
reactant | 2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-3-(1-chloro-2-oxoethyl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C(C=O)Cl)NC(=O)OC(C)(C)C)=O | C27H27ClN2O6S
reactant | sodium bicarbonate | 500 cc | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 100 cc | O1CCCC1 | C4H8O
solvent | ethanol | 40 cc | C(C)O | C2H6O
solvent | ethyl acetate | 250 cc | C(C)(=O)OCC | C4H8O2
product | 3-(2-Anilino-thiazol-5-yl)-2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 2.7 g | N(C1=CC=CC=C1)C=1SC(=CN1)C1=C(N2C(C(C2SC1)NC(=O)OC(C)(C)C)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C34H32N4O5S2
